US07166598B2
To a solution of 3-iodo-5-(trifluoromethyl)benzoic acid (2.32 g) and triethylamine (1.13 ml) in dichloromethane (20 ml) was added dropwise a solution of ethyl chloroformate (1.4 ml) in dichloromethane (2.0 ml) over 10 minutes at −30° C., and the mixture was stirred at −30° C. for 1 hour. 2-Amino-2-methyl-1-propanol was added dropwise to the mixture over 5 minutes at −30° C., and the mixture was stirred at −30° C. for 30 minutes and then at room temperature for 1 hour. The mixture was quenched with aqueous ammonium chloride solution at 0° C., and extracted with dichloromethane (X2). The combined organic extracts were washed successively with saturated aqueous sodium hydrogen carbonate solution, 1N hydrochloric acid and brine, and then dried over magnesium sulfate, evaporated, and purified with column chromatography (silica gel, ethyl acetate:hexane=20:80) to give N-(2-hydroxy-1,1-dimethylethyl)-3-iodo-5-(trifluoromethyl)benzamide (2.10 g) as an oil.

reactant | 3-iodo-5-(trifluoromethyl)benzoic acid | 2.32 g | IC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4F3IO2
reactant | triethylamine | 1.13 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.4 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2-Amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | N-(2-hydroxy-1,1-dimethylethyl)-3-iodo-5-(trifluoromethyl)benzamide | 2.10 g | OCC(C)(C)NC(C1=CC(=CC(=C1)C(F)(F)F)I)=O | C12H13F3INO2
